US07279575B2
Preparation of 6,6-dimethyl-2,4-dioxopiperidine
Ethyl 6,6-dimethyl-2,4-dioxopiperidine-3-carboxylate (0.69 g, 3.23 mmol) was dissolved in acetonitrile containing 1% of water (15 mL) and the resulting solution was refluxed for 2 hours. After evaporating to dryness, the crude material was suspended in isopropyl ether, kept under vigorous stirring and filtered to give the title compound (387 mg, Y=85%) as a light brown solid.

reactant | Ethyl 6,6-dimethyl-2,4-dioxopiperidine-3-carboxylate | 3.23 mmol, 0.69 g | CC1(CC(C(C(N1)=O)C(=O)OCC)=O)C | C10H15NO4
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | 15 mL | O | H2O
product | 6,6-dimethyl-2,4-dioxopiperidine | 387 mg, 85% | CC1(CC(CC(N1)=O)=O)C | C7H11NO2
